US07875645B2
To 1 ml of a mixture of 48% aqueous HBr solution and conc. sulfuric acid (2:1 v/v) were added 0.81 g (3.3 mmol) (2,6-bis-trifluoromethyl-phenyl)-methanol and the solution heated to reflux for 6 h. Then the reaction mixture was cooled to rt, diluted with water and extracted with tert-butyl methyl ether. The combined extracts were washed with brine, dried over Na2SO4, filtered and evaporated. Kugelrohr distillation provided 2-bromomethyl-1,3-bis-trifluoromethyl-benzene as colourless oil of b.p. 135-140° C./22 mbar: MS (EI): 307.9 and 305.9 (M+.), 227.1 (((M-Br)+.), 100%).

reactant | HBr | Br | BrH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | (2,6-bis-trifluoromethyl-phenyl)-methanol | 3.3 mmol, 0.81 g | FC(C1=C(C(=CC=C1)C(F)(F)F)CO)(F)F | C9H6F6O
solvent | water | O | H2O
product | 2-bromomethyl-1,3-bis-trifluoromethyl-benzene | BrCC1=C(C=CC=C1C(F)(F)F)C(F)(F)F | C9H5BrF6
